US05290780
3-[(4-Bromophenyl)methyl]-2-butyl-6-[1-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-methylethyl]-4(3H)-quinazolinone
To a solution of 1.00 g of 3-[(4-bromophenyl) methyl]-2-butyl-6-(1-hydroxy-1-methylethyl)-4(3H)-quinazolinone in 2.0 ml of DMF is added 0.438 g of t-butyldimethylsilyl chloride followed by 0.4 g of imidazole. The reaction mixture is stirred at room temperature for 18 hours and then diluted with water and extracted with ether. The combined ether extracts are dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate/hexanes (1:5) to provide the desired product as a white solid.

reactant | 3-[(4-bromophenyl) methyl]-2-butyl-6-(1-hydroxy-1-methylethyl)-4(3H)-quinazolinone | 1.00 g | BrC1=CC=C(C=C1)CN1C(=NC2=CC=C(C=C2C1=O)C(C)(C)O)CCCC | C22H25BrN2O2
reactant | t-butyldimethylsilyl chloride | 0.438 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.4 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[(4-Bromophenyl)methyl]-2-butyl-6-[1-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-methylethyl]-4(3H)-quinazolinone | BrC1=CC=C(C=C1)CN1C(=NC2=CC=C(C=C2C1=O)C(C)(C)O[Si](C)(C)C(C)(C)C)CCCC | C28H39BrN2O2Si
